US07468371B2
2-Bromo-1-(4-fluoro-2-hydroxy-phenyl)-ethanone
A solution of 1-(4-fluoro-2-hydroxy-phenyl)-ethanone (15.4 g, Aldrich) in EtOAc (100 mL) was treated with AlCl3 (133 mg), stirred at r.t. for 30 min, treated with montmorillonite K10 (2.5 g) stirred an additional 30 min then treated with a solution of bromine (7.05 mL) in EtOAc (100 mL) (added dropwise via addition funnel over 1.5 h). The reaction was stirred at r.t. for 1 h, cooled in a an ice bath and quenched with water added dropwise. The mixture was diluted with EtOAc, filtered through celite and the filtrate was extracted with EtOAc (2×). The combined organic extracts were dried (Na2SO4), concentrated and teh crude product was purified via silica gel chromatography eluting with 5% EtOAc-hexanes to give 3.31 g of the title compound. MS (ESI) m/e 437(2M+H)+.

reactant | 1-(4-fluoro-2-hydroxy-phenyl)-ethanone | 15.4 g | FC1=CC(=C(C=C1)C(C)=O)O | C8H7FO2
reactant | montmorillonite K10 | 2.5 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | bromine | 7.05 mL | BrBr | Br2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | AlCl3 | 133 mg | [Al+3].[Cl-].[Cl-].[Cl-]
product | 2-Bromo-1-(4-fluoro-2-hydroxy-phenyl)-ethanone | 3.31 g | BrCC(=O)C1=C(C=C(C=C1)F)O | C8H6BrFO2
